US07906537B2
(4-Amino-2-methyloxyphenyl)-carbamic acid ethyl ester
(2-Methoxy-4-nitrophenyl)-carbamic acid ethyl ester (2.20 g) was dissolved in ethanol (220 mL). Aqueous hydrochloric acid (26 mL, 6 M) and iron powder (4.74 g) were added, and the mixture was stirred at 65° C. for 15 minutes. After cooling to room temperature, the mixture was neutralised with saturated aqueous sodium bicarbonate and extracted with ethyl acetate (3×200 mL). The organic phase was washed with water (2×100 mL) and brine (100 mL), dried over magnesium sulfate, filtered, and evaporated in vacuo. The crude product was dissolved in ethanol (100 mL), and the above procedure was repeated using aqueous hydrochloric acid (26 mL, 6M) and iron powder (3.7 g), to yield the title compound as a dark oil (1.80 g, 93%). 1H NMR (DMSO-d6): 1.19 (t, 3H), 3.67 (s, 3H), 4.01 (q, 2H), 4.97 (s, 2H), 6.08 (dd, 1H), 6.23 (d, 1H), 6.97 (br. s, 1H), 7.92 (br. s, 1H).

reactant | (2-Methoxy-4-nitrophenyl)-carbamic acid ethyl ester | 2.20 g | C(C)OC(NC1=C(C=C(C=C1)[N+](=O)[O-])OC)=O | C10H12N2O5
reactant | hydrochloric acid | 6 M, 26 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 220 mL | C(C)O | C2H6O
catalyst | iron | 4.74 g | [Fe] | Fe
product | (4-Amino-2-methyloxyphenyl)-carbamic acid ethyl ester | 1.80 g, 93% | C(C)OC(NC1=C(C=C(C=C1)N)OC)=O | C10H14N2O3
